US06734191B2
AMD9743: Preparation of 4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzoic acid hydrazide
To a stirred solution of 4-{[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzoic acid methyl ester (AMD9711) (140 mg, 0.33 mmol) in dry ethanol (3 mL) was added hydrazine monohydrate (0.5 mL, 10.3 mmol) and the resulting mixture was heated at 80° C. for 24 h. Saturated aqueous sodium bicarbonate (5 mL) was added, the phases separated and the aqueous layer extracted with CH2Cl2 (3×10 mL). The combined organic extracts were dried (MgSO4) and concentrated in vacuo. Purification of the crude material by radial chromatography (1 mm plate, 75:1:1 CH2Cl2-MeOH-NH4OH) afforded the title compound (89 mg, 61%) as a white solid. 1H NMR (CDCl3) δ1.64-1.68 (m, 1H), 1.94-2.04 (m, 2H), 2.20-2.24 (m, 1H), 2.66-2.72 (m, 1H), 2.78-2.83 (m, 1H), 3.73 (s, 2H), 3.93 (d, 1H, J=16 Hz), 4.00-4.12 (m, 3H), 4.15 (d, 1H, J=16 Hz), 7.14-7.18 (m, 3H), 7.40 (d, 2H, J=8 Hz), 7.50 (br d, 1H, J=7 Hz), 7.58 (d, 2H, J=8 Hz), 7.62 (br d, 1H, J=7 Hz), 8.06 (s, 1H), 8.66 (dd, 1H, J=5, 1 Hz); 13C NMR (CDCl3) δ21.2, 23.6, 29.0, 48.7, 53.7, 60.4, 111.4, 118.4, 121.5, 122.3, 126.9, 128.6, 131.5, 134.7, 137.3, 143.5, 146.8, 155.8, 157.1, 168.4. ES-MS m/z 427 (M+H). Anal. Calcd. for C25H26N6O.0.5CH2Cl2: C, 65.31; H, 5.80; N, 17.92. Found: C, 65.22; H, 5.77; N, 17.97.

reactant | 4-{[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzoic acid methyl ester | 0.33 mmol, 140 mg | COC(C1=CC=C(C=C1)CN(C1CCCC=2C=CC=NC12)CC1=NC2=C(N1)C=CC=C2)=O | C26H26N4O2
reactant | hydrazine monohydrate | 10.3 mmol, 0.5 mL | O.NN
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzoic acid hydrazide | 89 mg, 61% | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(C(=O)NN)C=C2 | C25H26N6O
